US06121274
A2: 2,3-Dihydro-2,2-dimethyl-7-methoxybenzofuran-4-carboxylic acid
5.5 g of methyl 2,3-dihydro-2,2-dimethyl-7-methoxybenzofuran-4-carboxylate are stirred at 60° C. for 2 h in a mixture of 150 ml of ethanol and 50 ml of 2N NaOH. The ethanol is distilled off, the residue is taken up in the water and the solution is adjusted to a pH of 4 with 2N HCl. The product which is precipitated hereby is filtered off with suction, washed with water and dried. 4.7 g of the title compound of m.p. 147-149° C. are obtained.

reactant | methyl 2,3-dihydro-2,2-dimethyl-7-methoxybenzofuran-4-carboxylate | 5.5 g | CC1(OC=2C(C1)=C(C=CC2OC)C(=O)OC)C | C13H16O4
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | NaOH | 2N, 50 ml | [OH-].[Na+]
product | 2,3-Dihydro-2,2-dimethyl-7-methoxybenzofuran-4-carboxylic acid | 4.7 g | CC1(OC=2C(C1)=C(C=CC2OC)C(=O)O)C | C12H14O4
